US09353108B2
E) (2-Cyclopropyl-4′-fluoro-6-propoxybiphenyl-4-yl)methanol
Tris(dibenzylideneacetone)dipalladium(0) (6.65 g) was added to a mixture of ethyl 4′-fluoro-2-propoxy-6-(((trifluoromethyl)sulfonyl)oxy)biphenyl-4-carboxylate (44.6 g), cyclopropylboronic acid (22.3 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (6.38 g), a 2 M aqueous sodium carbonate solution (156 mL), and toluene (250 mL), and the resultant mixture was stirred at 100° C. for 4 hours in an argon atmosphere. The reaction mixture was allowed to cool to room temperature, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate). A THF (150 mL) solution of the obtained purified product was added to a THF (150 mL) suspension of lithium aluminum hydride (3.50 g) under ice cooling in a nitrogen atmosphere. After stirring at the same temperature as above for 30 minutes, water (3.5 mL) and a 15% aqueous sodium hydroxide solution (3.5 mL) were added thereto, and the mixture was stirred for 5 minutes. Then, water (10.5 mL) was further added thereto, and the mixture was stirred for 30 minutes. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (29.8 g).

reactant | ethyl 4′-fluoro-2-propoxy-6-(((trifluoromethyl)sulfonyl)oxy)biphenyl-4-carboxylate | 44.6 g | FC1=CC=C(C=C1)C1=C(C=C(C=C1OS(=O)(=O)C(F)(F)F)C(=O)OCC)OCCC | C19H18F4O6S
reactant | cyclopropylboronic acid | 22.3 g | C1(CC1)B(O)O | C3H7BO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 6.38 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 156 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 6.65 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | (2-Cyclopropyl-4′-fluoro-6-propoxybiphenyl-4-yl)methanol | 29.8 g | C1(CC1)C1=C(C(=CC(=C1)CO)OCCC)C1=CC=C(C=C1)F | C19H21FO2
